Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
codeine / morphine / Betadine
 
Attending: ___
 
Chief Complaint:
Seizure
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Per admitting physician, ___:
Ms. ___ is a ___ female with atrial
fibrillation s/p pacemaker, hypothyroidism, left neck/LUE DVT on
Eliquis, and metastatic lung adenocarcinoma to the brain s/p
resection and multiple courses of SRS due to progressive brain
metastases currently on ramucirumab and docetaxel who presents
with seizure.

She reports left eye twitching and drooling that she noticed the
morning of ___ at around 9:30 AM when she awoke. She also noted
that she was unable to speak which slowly improved over several
minutes. She was taken to ___ ED where she had
witnessed bilateral facial muscle twitching. She reports that 
she
remembers the entire episode and that she was given IV Ativan
which stopped the seizure but made her very somnolent. CT of the
head was negative for any interval change or acute bleed. She 
was
transferred to ___ for further management.

She also reports that her last chemotherapy was on ___ where 
she
was given a more intense treatment with ramucirumab and
docetaxel. She noted that afterwards she felt very fatigue and
had muscle spasms, leg cramps, and URI symptoms. She has been
taking her Keppra twice daily but notes that she ran out of her
dexamethasone about 1 week ago. She does not like how the
decadron makes her feel. She also notes pain at her left elbow
due to leaning on it more frequently.

On arrival to the ___ ED, initial vitals were 96.7 76 142/91 
14
95% RA. Exam was notable for CNII-XII intact, opens eyes to
voice, and moves all extremities. Labs were notable for WBC 
13.7,
H/H 12.7/39.0, Plt 131, INR 1.1, Na 141, K 4.5, BUN/Cr ___,
LFTs wnl, d-dimer 595, and UA negative. Urine culture was sent.
Neurology was consulted and recommended cvEEG, LP, Keppra 1500mg
BID, brain MRI, and empiric acyclovir. CXR showed mild pulmonary
vascular congestion and unchanged severe cardiomegaly. CTA chest
was negative for PE but showed multiple new bilateral pulmonary
nodules. Patient was given Keppra 1g IV, acyclovir 550mg IV, and
dexamethasone 4mg PO. Prior to transfer vitals were 97.4 78
116/50 19 94% 4L.

On arrival to the floor, patient reports feeling better. She
believes her symptoms have improved. She denies fevers/chills,
night sweats, headache, vision changes,
dizziness/lightheadedness, weakness/numbness, shortness of
breath, cough, hemoptysis, chest pain, palpitations, abdominal
pain, nausea/vomiting, diarrhea, hematemesis,
hematochezia/melena, dysuria, hematuria, and new rashes.

REVIEW OF SYSTEMS: A complete 10-point review of systems was
performed and was negative unless otherwise noted in the HPI.

 
Past Medical History:
PAST ONCOLOGIC HISTORY:
- Left facial droop and dysarthria ___
- A contrast-enhanced head CT performed on ___ revealed a 
1.4
cm ring-enhancing mass in the right frontal brain. CT of the
torso on ___ and ___ showed a left upper lobe lung mass
associated with hilar adenopathy and satellite pulmonary nodules
- Resection right frontal met ___ by Dr. ___ at the
___ radiosurgery on ___ to cavity to 2400 (800 cGy 
in
3 fractions) at the 75% isodose line and left temporo-occipital
metastasis to 2200 cGy at the 74% isodose line
- DFCI protocol ___ ipilimumab + nivolumab started ___ 
at
___ radiosurgery on ___ to right superior parietal
metastasis to 2200 cGy at the 82% isodose line and left
cerebellar metastasis to 2200 cGy at the 73% isodose line
- CT torso on ___ showed progression and she was then off
study protocol ___
- Carboplatin plus pemetrexed started on ___ at ___
- Pemetrexed alone ___
- Cyberknife SRS ___ to right frontal metastasis to 2200 cGy
- Admitted ___ for aphasia found to have left IJ
thrombus. Started on apixaban and increased dexamethasone to 4mg
daily
- Speech worse ___, dexamethasone up to 6 mg day

PAST MEDICAL HISTORY:
- Atrial Fibrillation s/p pacemaker
- Hypothyroidism
- s/p repair of transposition of her great arteries at age ___
- s/p C-section in ___

 
Social History:
___
Family History:
She is adopted.
 
Physical Exam:
VS: 97.7 PO 124 / 56 L Lying 62 18 96 RA
GENERAL: Pleasant woman, in no distress, lying in bed
comfortably.
HEENT: Anicteric, PERLL, OP clear
CARDIAC: RRR, normal s1/s2, no m/r/g.
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally
ABD: Soft, non-tender, non-distended, positive bowel sounds.
EXT: Warm, well perfused, no lower extremity edema.
MSK: Scab on left elbow. Normal ROM.
NEURO: A&Ox3, good attention and linear thought, CN III-XII
intact. Strength full throughout. Sensation to light touch
intact.
ACCESS: Right chest wall port without erythema.
 
Pertinent Results:
___ 05:42AM BLOOD WBC-19.7* RBC-3.48* Hgb-11.9 Hct-36.0 
MCV-103* MCH-34.2* MCHC-33.1 RDW-17.7* RDWSD-63.2* Plt ___
___ 05:42AM BLOOD Glucose-98 UreaN-10 Creat-0.7 Na-144 
K-4.4 Cl-106 HCO3-24 AnGap-14
___ 03:40PM BLOOD ALT-18 AST-19 AlkPhos-91 TotBili-0.3
___ 05:42AM BLOOD Calcium-8.9 Phos-3.8 Mg-2.0

Brain MRI ___
Wet Read by ___ on WED ___ 11:03 ___ Comparison 
is made to MRI brain performed ___. No evidence of 
infarction. Redemonstration of postsurgical changes in the right 
frontal cortex with similar FLAIR/T2 hyperintense signal. A 9 mm 
predominantly peripherally enhancing lesion in the right 
posterior frontal lobe is similar in size compared to prior 
exam, however demonstrates decreased internal enhancement 
(9:126). A 5 mm right parietal parasagittal lesion is increased 
in size, previously measuring 3 mm (9:105). No definite new 
enhancing lesions are seen. No midline shift. Cavum septum 
vergae is again noted. For report to follow pending dedicated 
review by neuroradiology.
 
Brief Hospital Course:
___ w/ Afib s/p ___, hypothyroidism, left neck/LUE DVT on 
Eliquis, and metastatic lung adenocarcinoma to the brain s/p 
resection and multiple courses of SRS due to
progressive brain mets, currently on ramucirumab and docetaxel, 
p/w first episode of seizure. Antiepileptics were adjusted and 
she felt well enough to go home with her husband. 

# Seizure
This is her first seizure, had at least two (technically one 
seizure since occurred within 24 hours of each other). She had 
been of her dex for a wk prior due to running out of med and 
disliking how it made her feel. She had a brain MRI (with CIED 
eval pre/post MRI) and it revealed that millimetric interval 
increase of a R parietal parasagittal lesion, now 5 mm, 
previously 3 mm ___. She had an infectious workup which 
revealed a neg UA, neg CTA, blood cx NGTD, and no encephalopathy 
noted. She declined LP. She also had a continuous video EEG x 24 
hrs which did not reveal any epileptiform activity on the 
preliminary report. She was seen by neuro-oncology who advised 
the following changes:
- resume home dex 2 mg BID (w/ bactrim and famotidine)
- increase Keppra from 500 mg bid to ___ mg BID
- started Lamotrigine 25 mg BID 
- neuro-oncology will titrate down keppra and uptitrate 
lamotrigine outpatient
- f/u with neuro-onc and rad-onc re MRI report

# Leukocytosis
WBC elevated from 13.7 to 19.7. In absence of infectious 
process, suspect most likely reactive and related to dex. 

# Non-Occlusive Left IJ Thrombus:
- cont apixaban  

# Metastatic Lung Adenocarcinoma 
CTA was done on admission for dyspnea and hypoxia (which had 
spontaneously resolved). It revealed "interval decrease in size 
of a spiculated left upper lobe pulmonary mass compared to ___ Also revealed "a new right middle lobe and left 
lower lobe pulmonary nodules, and slightly increased superior 
right lower lobe nodule, concerning for progression of 
malignancy. New diffuse sclerosis of the T4 vertebra without 
pathologic fracture, which may represent a new metastasis versus 
sclerotic change of a prior treated metastasis." 
- f/u w/ DFCI oncologist for chemo and review the CTA findings 
(report was printed and given to patient to take to her clinic 
appointment)

# Atrial Fibrillation: appears in SR, has a pacemaker, and on 
a/c for DVT
# Hypothyroidism: cont home levothyroxine
# Psych: cont home citalopram

FEN: Regular 
PPX: Apixaban
ACCESS: POC
COMMUNICATION: Patient
EMERGENCY CONTACT HCP: ___ (husband) ___
DISPO: Home
BILLING: >60 min spent coordinating care for discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 20 mg PO DAILY 
2. Levothyroxine Sodium 50 mcg PO DAILY 
3. Multivitamins 1 TAB PO DAILY 
4. Apixaban 5 mg PO BID 
5. Dexamethasone 2 mg PO BID 
6. Famotidine 20 mg PO BID 
7. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
8. LevETIRAcetam 500 mg PO BID 

 
Discharge Medications:
1.  LamoTRIgine 25 mg PO BID 
notify your physician if ___ develop any rashes on this 
medication. never stop on your own 
RX *lamotrigine [Lamictal] 25 mg 1 tablet(s) by mouth twice a 
day Disp #*60 Tablet Refills:*0 
2.  LevETIRAcetam 1500 mg PO BID 
RX *levetiracetam 750 mg 2 tablet(s) by mouth twice a day Disp 
#*120 Tablet Refills:*0 
3.  Apixaban 5 mg PO BID  
4.  Citalopram 20 mg PO DAILY  
5.  Dexamethasone 2 mg PO BID Duration: 30 Days 
your neuro-oncologist will titrate this drug for ___. never stop 
this medication on your own 
RX *dexamethasone 2 mg 1 tablet(s) by mouth q 12 hours Disp #*60 
Tablet Refills:*0 
6.  Famotidine 20 mg PO BID  
7.  Levothyroxine Sodium 50 mcg PO DAILY  
8.  Multivitamins 1 TAB PO DAILY  
9.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Seizure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
 

 
Discharge Instructions:
Dear ___,

___ were admitted to the hospital for a new seizure. ___ were 
seen by the neuro-oncology team. This was most likely due to 
being off dexamethasone. Your home dose was resumed, Keppra dose 
increased to 1500 mg twice a day, and started on a new 
medication Lamictal 25 mg twice a day. Dr ___ will adjust this 
medication so ___ can come off Keppra. ___ had a brain MRI done 
which revealed very subtle increase size of a brain mass from 3 
mm to 5 mm. ___ will need to discuss this with your 
radiationponcologist and neuro-oncologist. ___ also had a 
continuous video EEG which did not reveal any seizure activity. 
Please return to the ED if ___ have any seizure activity and 
notify your neuro-oncologist.  

According to the ___ laws, ___ should not drive for 
six months after having a seizure until ___ are confirmed 
seizure free. Regarding your driver's license, MA law state ___ 
must voluntarily surrender it or be subject to suspension or 
revocation until ___ have remained episode free for a period of 
at least 6 months." ___ may have your license back when your 
doctor confirms ___ have been free from seizures for a minimum 
of six months. In addition, ___ should avoid unsupervised 
activities which might pose danger with sudden loss of 
consciousness, including bathing, swimming alone, riding a bike. 
Infections and dehydration can also pose a risk. Please do not 
forget to take your medications as scheduled. If ___ do, please 
do not double the dose and rather take immediately and then at 
your regularly scheduled time. Let your neuro-oncologist know 
___ have a prescription for one months supply of your new 
medications. 

Please also show the report of the CT scan to your oncologist 
and the MRI report as well. I called their office but they are 
closed on the holiday and the hematology oncology fellow on call 
at ___ had not returned my page at the time of this discharge. 

We wish ___ a healthy ___ holiday,
Your ___ Team
 
Followup Instructions:
___